US04517355
100 g (0.5 moles) of phenylphosphinic acid ethyl ester are heated to 80° C., and 15 g (0.52) of paraformaldehyde are added in small portions. The paraformaldehyde addition is regulated so that the temperature does not exceed 110° C. by virtue of the exothermic nature of the reaction. When the addition is complete, the mixture is kept for about one hour under agitation at 110° C., and the termination of the reaction can be seen by gas chromatography or thin layer chromatography. 100 cc of a 10% HCl solution are then added, and the mixture kept at 80° C. for 30 min. The water and hydrochloric acid are then evaporated under vacuum, and the mixture taken up in isopropanol. On cooling, 69.3 g of hydroxymethylphenylphosphinic acid are obtained with a yield of 80.5% and a melting point of 138°-9° C.

reactant | phenylphosphinic acid ethyl ester | 0.5 moles, 100 g | C(C)OP(=O)C1=CC=CC=C1 | C8H11O2P
reactant | paraformaldehyde | 15 g | C=O | CH2O
reactant | HCl | Cl | ClH
product | hydroxymethylphenylphosphinic acid | 69.3 g, yield of 80.5% | OCP(O)(=O)C1=CC=CC=C1 | C7H9O3P
